US06077859
3-Cyano-4-(2,2-dichloro-3-toluenesulphonylcyclobutyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
3-Cyano-4-(2,2-dichloro-3-hydroxycyclobutyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (628 mg, 1.41 mmol, Preparation 2) was dissolved in anhydrous DCM and cooled to 0° C. Triethylamine (0.27 ml, 1.98 mmol) was added dropwise followed by p-toluenesulfonyl chloride (297 mg, 1.56 mmol). The cooling bath was removed and the reaction mixture was stirred 18 hr at room temperature. The reaction mixture was poured into an equal volume of water and extracted with DCM (2×30 ml). The combined organics were washed successively with saturated sodium bicarbonate, brine then dried (Na2SO4), filtered and the solvent removed in vacuo. The residue was purified by silica chromatography (eluting with 33% DCM/hexane) to yield 131 mg of the title compound as an off-white solid.

reactant | 3-Cyano-4-(2,2-dichloro-3-hydroxycyclobutyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 1.41 mmol, 628 mg | C(#N)C1=NN(C=C1C1C(C(C1)O)(Cl)Cl)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H8Cl4F3N3O
reactant | Triethylamine | 1.98 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 1.56 mmol, 297 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-Cyano-4-(2,2-dichloro-3-toluenesulphonylcyclobutyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 131 mg | C(#N)C1=NN(C=C1C1C(C(C1)S(=O)(=O)C=1C(=CC=CC1)C)(Cl)Cl)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C22H14Cl4F3N3O2S
